US07820654B2
A mixture of compound 2,4,6-trichloro-pyrimidine (1 g, 5.63 mmol), 4-trifluromethoxy aniline (1.99 g, 11.24 mmol) and K2CO3 (0.7 g, 6.60 mmol) in 20 mL of ethanol was stirred at room temperature for 15 hours under nitrogen atmosphere. Ethanol was then removed under reduced pressure and water was added. The solid obtained was filtered and dried under vacuum to afford the compound (2,6-dichloro-pyrimidin-4-yl)-(4-trifluoromethoxy-phenyl)-amine (1.7 g, 96%) as a white solid.

reactant | 2,4,6-trichloro-pyrimidine | 5.63 mmol, 1 g | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | 4-trifluromethoxy aniline | 11.24 mmol, 1.99 g | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | K2CO3 | 6.60 mmol, 0.7 g | C(=O)([O-])[O-].[K+].[K+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | (2,6-dichloro-pyrimidin-4-yl)-(4-trifluoromethoxy-phenyl)-amine | 1.7 g, 96% | ClC1=NC(=CC(=N1)NC1=CC=C(C=C1)OC(F)(F)F)Cl | C11H6Cl2F3N3O
